### PR TITLE
[Merged by Bors] - feat(RingTheory/RootsOfUnity): of_card_le

### PR DESCRIPTION
**Pull request by pechersky**
If the cardinality of n-th roots of unity is >= n, then `HasEnoughRootsOfUnity` the reverse direction of `natCard_rootsOfUnity`
but requires `CommRing`

Stated with an `LE` instead of `Eq` to have a weaker hypothesis

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/RootsOfUnity/EnoughRootsOfUnity.lean [hunk 1]
```diff
@@ -75,6 +75,23 @@ lemma natCard_rootsOfUnity (M : Type*) [CommMonoid M] (n : ℕ) [NeZero n]
...
+  have := rootsOfUnity.isCyclic R n
+  obtain ⟨⟨g, hg'⟩, hg⟩ := IsCyclic.exists_ofOrder_eq_natCard (α := rootsOfUnity n R)
+  rw [Nat.card_eq_fintype_card, ← orderOf_submonoid, ← orderOf_units,
+    le_antisymm (card_rootsOfUnity R n) h] at hg
+  dsimp only at hg
+  have hn : (g : R) ^ n = 1 := by simpa [← hg] using pow_orderOf_eq_one g.val
+  refine ⟨⟨(g : Rˣ), ?_, fun k hk ↦ ?_⟩, this⟩
+  · simpa [Units.ext_iff] using hg'
+  · refine Nat.dvd_of_mod_eq_zero ?_
+    contrapose! hk
```
Comment (mattrobball) [inline Mathlib/RingTheory/RootsOfUnity/EnoughRootsOfUnity.lean]:
```suggestion
  refine ⟨⟨(g : Rˣ), hn, fun k hk ↦ Nat.dvd_of_mod_eq_zero ?_⟩, this⟩
  · contrapose! hk
```
seems easier to read.

File: Mathlib/RingTheory/RootsOfUnity/EnoughRootsOfUnity.lean [hunk 2]
```diff
@@ -75,6 +75,23 @@ lemma natCard_rootsOfUnity (M : Type*) [CommMonoid M] (n : ℕ) [NeZero n]
...
+    rw [← Nat.div_add_mod k n, pow_add, pow_mul]
```
Comment (mattrobball) [inline Mathlib/RingTheory/RootsOfUnity/EnoughRootsOfUnity.lean]: It seems like we are missing some serious API if we cannot immediately conclude that `k % n = 0` from `orderOf g = n` given sufficient conditions.

Comment (mattrobball) [reply Mathlib/RingTheory/RootsOfUnity/EnoughRootsOfUnity.lean]: Another approach is get everything in terms of `orderOf` first. 
```lean
  obtain ⟨⟨g, hg'⟩, hg⟩ := IsCyclic.exists_ofOrder_eq_natCard (α := rootsOfUnity n R)                                                                                     
  rw [Nat.card_eq_fintype_card, ← orderOf_submonoid, ← orderOf_units,                                                                                                     
    le_antisymm (card_rootsOfUnity R n) h] at hg                                                                                                                          
  dsimp only at hg                                                                                                                                                        
  rw [← hg]                                                                                                                                                               
  have : NeZero (orderOf (g : R)) := by rw [hg]; infer_instance                                                                                                           
  exact                                                                                                                                                                   
    ⟨⟨g, pow_orderOf_eq_one _, fun _ hk ↦ orderOf_dvd_of_pow_eq_one hk⟩, rootsOfUnity.isCyclic R _⟩  
```

Comment (pechersky) [reply Mathlib/RingTheory/RootsOfUnity/EnoughRootsOfUnity.lean]: Added some API

**Comment by mattrobball** [comment]
Great!

bors merge
